US05122523
983 mg of (3RS,4S)-4-(benzyloxycarbonyl)amino-5-cyclohexylpentene-3-ol was dissolved in 5 ml of dichloromethane, and 4 ml of 2,2-dimethoxypropane and 30 mg of dry p-toluenesulfonic acid were added thereto. The mixture was stirred at room temperature overnight. Then, 100 ml of ethyl acetate was added to the reaction mixture. The mixture was washed with a saturated sodium hydrogencarbonate aqueous solution and with a saturated sodium chloride aqueous solution. Then, the organic layer was dried over anhydrous magnesium sulfate. The solvent was distilled off under reduced pressure, and the residue was purified by silica gel column chromatography (n-hexane/ethyl acetate=20/1) to obtain 967 mg of (4S,5RS)-3-benzyloxycarbonyl-4-cyclohexylmethyl-5-ethenyl-2,2-dimethyloxazolidine as colorless oily substance.

reactant | (3RS,4S)-4-(benzyloxycarbonyl)amino-5-cyclohexylpentene-3-ol | 983 mg | C(C1=CC=CC=C1)OC(=O)N[C@H](C(C=C)O)CC1CCCCC1 | C19H27NO3
reactant | 2,2-dimethoxypropane | 4 ml | COC(C)(C)OC | C5H12O2
reactant | p-toluenesulfonic acid | 30 mg | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
product | (4S,5RS)-3-benzyloxycarbonyl-4-cyclohexylmethyl-5-ethenyl-2,2-dimethyloxazolidine | 967 mg | C(C1=CC=CC=C1)OC(=O)N1C(OC([C@@H]1CC1CCCCC1)C=C)(C)C | C22H31NO3
